US08563577B2
To a solution of (R)-quinuclidin-3-yl 2-(3-fluorophenylamino)-2-phenylacetate (I41) (76 mg, 0.21 mmol) in EtOAc (5 mL), was added 3-(chloromethyl)-5-(thiazol-2-yl)-1,2,4-oxadiazole (I55) (43 mg, 0.21 mmol). The mixture was stirred at room temperature for 17 hours. Then the mixture was heated under microwave irradiation at 100° C. for 1 hour. The solvent was evaporated and the crude was triturated with Et2O and filtrated to collect (3R)-3-(2-(3-fluorophenylamino)-2-phenylacetoxy)-1-((5-(thiazol-2-yl)-1,2,4-oxadiazol-3-yl)methyl)-1-azoniabicyclo[2.2.2]octane chloride (36 mg, 30.4% yield, mixture of diastereomers).

reactant | (R)-quinuclidin-3-yl 2-(3-fluorophenylamino)-2-phenylacetate | 0.21 mmol, 76 mg | FC=1C=C(C=CC1)NC(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C21H23FN2O2
reactant | 3-(chloromethyl)-5-(thiazol-2-yl)-1,2,4-oxadiazole | 0.21 mmol, 43 mg | ClCC1=NOC(=N1)C=1SC=CN1 | C6H4ClN3OS
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(3-fluorophenylamino)-2-phenylacetoxy)-1-((5-(thiazol-2-yl)-1,2,4-oxadiazol-3-yl)methyl)-1-azoniabicyclo[2.2.2]octane chloride | 36 mg, 30.4% yield | [Cl-].FC=1C=C(C=CC1)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC2=NOC(=N2)C=2SC=CN2)C2=CC=CC=C2 | InChI=1S/C27H27FN5O3S.ClH/c28-20-7-4-8-21(15-20)30-24(19-5-2-1-3-6-19)27(34)35-22-16-33(12-9-18(22)10-13-33)17-23-31-25(36-32-23)26-29-11-14-37-26;/h1-8,11,14-15,18,22,24,30H,9-10,12-13,16-17H2;1H/q+1;/p-1/t18?,22-,24?,33?;/m0./s1
